US05834494
6-Chloro-5-ethylindoline (D52)
6-Chloro-5-ethylindole (D51) (0.62 g, 3.46 mmol) was treated with sodium cyanoborohydride as in the method of Description 10 to give the title compound (0.485 g, 77%) as a yellow oil.

reactant | 6-Chloro-5-ethylindole | 3.46 mmol, 0.62 g | ClC1=C(C=C2C=CNC2=C1)CC | C10H10ClN
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 6-Chloro-5-ethylindoline | 0.485 g, 77% | ClC1=C(C=C2CCNC2=C1)CC | C10H12ClN
